US05866583
A solution of 6.1 g of 1-pyridin-2-yl-3,4-dihydro-isoquinoline in 220 ml of absolute ethanol was hydrogenated on 1.25 g of platinum dioxide at 20° C. and 1 bar hydrogen pressure for 90 min. After removal of the catalyst by filtration, [the filtrate] was concentrated under reduced pressure. There were obtained 6.71 g of (RS)-1-pyridin-2-yl-1,2,3,4-tetrahydro-isoquinoline as a colorless oil, b.p. 140° C./0.1 mbar (bulb-tube).

reactant | 1-pyridin-2-yl-3,4-dihydro-isoquinoline | 6.1 g | N1=C(C=CC=C1)C1=NCCC2=CC=CC=C12 | C14H12N2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 220 ml | C(C)O | C2H6O
catalyst | platinum dioxide | 1.25 g | [Pt](=O)=O
product | (RS)-1-pyridin-2-yl-1,2,3,4-tetrahydro-isoquinoline | 6.71 g | N1=C(C=CC=C1)C1NCCC2=CC=CC=C12 | C14H14N2
